US04751163
(1) Synthesis of 1-(p-diethylaminophenyl)-1-phenylethylene
After adding dropwise 100 ml of a benzene solution containing 8 g of acetophenone to a tetrahydrofuran solution of 4-diethylaminophenylmagnesium bromide prepared from 2 g of magnesium, 16 g of 4-bromodiethylaniline, and 100 ml of tetrahydrofuran, stirring was continued under reflux for 5 hours. After cooling, 200 ml of a saturated aqueous ammonium chloride solution was added thereto. The mixture was subjected to hydrolysis, and an organic layer was separated and washed with water. After distilling off the solvent, the residue was dissolved in benzene, and the solution was stirred and refluxed with the addition of 0.1 g of p-toluenesulfonic acid for one hour. After distilling off the solvent, the residue was dissolved in benzene, and the product was separated and purified by silica gel column chromatography.

reactant | acetophenone | 8 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | 4-diethylaminophenylmagnesium bromide | C(C)N(C1=CC=C(C=C1)[Mg]Br)CC
reactant | magnesium | 2 g | [Mg] | Mg
reactant | 4-bromodiethylaniline | 16 g | BrC1=CC=C(N(CC)CC)C=C1 | C10H14BrN
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 1-(p-diethylaminophenyl)-1-phenylethylene | C(C)N(C1=CC=C(C=C1)C(=C)C1=CC=CC=C1)CC | C18H21N
